US07875639B2
6-Fluoro-3-(2-methoxyethyl)-3H-benzothiazol-2-ylideneamine HBr
Commercially available 6-fluoro-benzothiazol-2-ylamine and 2-bromoethyl methyl ether were processed as described for Example 2A to afford the title compound MS (ESI+) m/z 227 (M+H)+.

reactant | 6-fluoro-benzothiazol-2-ylamine | FC1=CC2=C(N=C(S2)N)C=C1 | C7H5FN2S
reactant | 2-bromoethyl methyl ether | COCCBr | C3H7BrO
product | 6-Fluoro-3-(2-methoxyethyl)-3H-benzothiazol-2-ylideneamine HBr | Br.FC1=CC2=C(N(C(S2)=N)CCOC)C=C1 | InChI=1S/C10H11FN2OS.BrH/c1-14-5-4-13-8-3-2-7(11)6-9(8)15-10(13)12;/h2-3,6,12H,4-5H2,1H3;1H
